US07335671B2
Benzyl (1S,3R)-3-allyloxycyclohex-1-yl ether
Under an atmosphere of argon, 12 g of sodium hydride (55-65%) are initially charged in 200 ml of abs. DMF, and the mixture is stirred at RT for 10 min. With ice-cooling, 54 g of benzyl (1S,3R)-3-hydroxycyclohex-1-yl ether in 70 ml of DMF are added dropwise. The mixture is stirred at RT for 90 min. With ice-cooling, 50 g of allyl bromide are slowly added dropwise. After the addition has ended, the mixture is stirred at 45° C. for 1 h. According to TLC, the reaction is complete. The reaction solution is quenched with 15 ml of iPrOH, diluted with water and sat. NaCl solution and extracted with MTBE. The combined organic phases are washed with water and NaCI solution, dried over MgSO4 and concentrated. This gives 60 g of benzyl (1S,3R)-3-allyloxycyclohex-1-yl ether as a light-beige oil. C16H22O2 (246.35), MS (ESI): 247 (M+H+).

reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | benzyl (1S,3R)-3-hydroxycyclohex-1-yl ether | 54 g | O[C@H]1C[C@H](CCC1)OCC1=CC=CC=C1 | C13H18O2
reactant | allyl bromide | 50 g | C(C=C)Br | C3H5Br
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | Benzyl (1S,3R)-3-allyloxycyclohex-1-yl ether | C(C=C)O[C@H]1C[C@H](CCC1)OCC1=CC=CC=C1 | C16H22O2
